US08349880B2
A 25 mL round bottom flask was charged with copper (I) iodide (26.2 mg, 0.138 mmol) in THF (4 mL), and cooled to 0° C. A solution of methyl magnesium bromide (4.92 mL, 6.89 mmol) was added dropwise. The mixture was stirred for 20 min. To the solution of methyl cuprate was added 2-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylamino)-9-(4-fluorophenyl)-8,9-dihydro-5H-[1,2,4]triazolo[1,5-a]azepin-7(6H)-one (300 mg, 0.689 mmol) in THF (1 mL). The mixture was stirred at 0° C. for 2 h. The reaction mixture was quenched with saturated ammonium chloride and diluted with EtOAc. The organic layer was sequentially washed with H2O (100 mL), aq sat. NaHCO3 solution (100 mL), and brine (100 mL). The organic layer was dried over sodium sulfate and concentrated in vacuo. The crude product was purified using reverse phase preparatory HPLC (MeOH/water/trifluoroacetic acid) to afford (7S,9R)-2-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylamino)-9-(4-fluorophenyl)-7-methyl-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-7-ol (21 mg, 7% yield, Example 155, first to elute) and (7R,9R)-2-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylamino)-9-(4-fluorophenyl)-7-methyl-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-7-ol (43.7 mg, 11% yield, Example 154). Data for Example 153: LC-MS (M+H)+ 452.2. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 9.71 (1 H, br. s.), 8.55 (1 H, br. s.), 7.59-7.68 (2 H, m), 7.21-7.28 (2 H, m), 7.06-7.18 (3 H, m), 4.58-4.67 (2 H, m), 4.39 (1 H, ddd, J=14.8, 5.0, 2.4 Hz), 2.50 (3 H, s), 2.17-2.26 (1 H, m), 2.10-2.16 (1 H, m), 1.99-2.07 (1 H, m), 1.89-1.98 (1 H, m), 1.44 (3 H, s). Data for Example 153: LC-MS (M+H)+ 452.2. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.40 (1 H, d, J=2.4 Hz), 7.58-7.69 (2 H, m), 7.21 (2 H, dd, J=8.5, 5.2 Hz), 7.16 (1 H, s), 7.07-7.13 (2 H, m), 7.03 (1 H, dd, J=8.9, 2.1 Hz), 4.54 (1 H, ddd, J=14.8, 8.4, 2.1 Hz), 4.22 (1 H, ddd, J=14.9, 8.8, 1.7 Hz), 4.03-4.11 (1 H, m), 2.51 (3 H, s), 2.42 (1 H, dd, J=14.0, 10.7 Hz), 2.02-2.17 (4 H, m), 1.51 (3 H, s).

reactant | methyl magnesium bromide | 6.89 mmol, 4.92 mL | C[Mg]Br
reactant | 2-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylamino)-9-(4-fluorophenyl)-8,9-dihydro-5H-[1,2,4]triazolo[1,5-a]azepin-7(6H)-one | 0.689 mmol, 300 mg | FC=1C=C(C=CC1N1N=C(N=C1)C)NC1=NN2C(C(CC(CC2)=O)C2=CC=C(C=C2)F)=N1 | C22H19F2N7O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | 0.138 mmol, 26.2 mg | [Cu]I
product | (7S,9R)-2-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylamino)-9-(4-fluorophenyl)-7-methyl-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-7-ol | 7% yield | FC=1C=C(C=CC1N1N=C(N=C1)C)NC1=NN2C([C@H](C[C@@](CC2)(O)C)C2=CC=C(C=C2)F)=N1 | C23H23F2N7O
